### PR TITLE
[Merged by Bors] - feat: improve the way to_additive deals with attributes

### LINKED ISSUE #950: `to_additive` doesn't interact with several other attributes.
Right now, `to_additive` is generating additive declarations which do not inherit other attributes attached to the multiplicative declaration. This is an issue because not all mathlib4 porters are aware of this, so right now some stuff is being incorrectly ported.

Here are examples:

1) `simp`
```lean
import Mathlib.Tactic.ToAdditive
import Mathlib.Init.ZeroOne

-- to_additive doesn't attach `simp`
@[simp, to_additive]
theorem One.foo [One α] [Mul α] (a : α) : (1 : α) * a = 1 := sorry

example [One α] [Mul α] (a : α) : (1 : α) * a = 1 := by simp

#check @Zero.foo -- exists

example [Zero α] [Add α] : (0 : α) + a = 0 := by simp -- fails (note: zero_add doesn't fire because it's not imported)
```

2) `simps` (note that [the docs](https://github.com/leanprover-community/mathlib4/blob/c4c6eb6aee753df16b2a96a3e51d771dbe041d1e/Mathlib/Tactic/Simps/Basic.lean#L236) currently claim that this works, but it doesn't seem to?)
```lean
import Mathlib.Algebra.Hom.Group

-- `simps` doesn't run on additivised declaration
@[to_additive, simps]
def OneHom.id' (M : Type _) [One M] : OneHom M M where
  toFun x := x
  map_one' := rfl

#check OneHom.id'_apply -- exists
#check ZeroHom.id' -- exists
#check ZeroHom.id'_apply -- doesn't exist
```

3) `ext`
```lean
import Mathlib.Algebra.Group.Units

@[ext, to_additive]
theorem Units.ext' [Monoid α] : Function.Injective (fun (u : αˣ) => (u : α))
  | ⟨v, i₁, vi₁, iv₁⟩, ⟨v', i₂, vi₂, iv₂⟩, e => by
    simp only at e; subst v'; congr;
    simpa only [iv₂, vi₁, one_mul, mul_one] using mul_assoc i₂ v i₁

example [Monoid α] (a b : αˣ) : a = b := by
  ext -- does something
  sorry

example [AddMonoid α] (a b : AddUnits α) : a = b := by
  ext -- fails
```

Other attributes currently used with `to_additive` in Mathlib are `norm_cast`, `coe`, `symm` and `trans`. I'm not sure which ones currently interact in the optimal way.

### LINKED ISSUE #953: `to_additive` doesn't copy simp priorities
This information is not easily accessible in `SimpTheorems`.

### LINKED ISSUE #1149: to_additive has issues with proofs that use simp
For example, in #934, the following works:
```lean
@[to_additive]
theorem mul_sup [CovariantClass α α (· * ·) (· ≤ ·)] (a b c : α) : c * (a ⊔ b) = c * a ⊔ c * b := by
  refine' le_antisymm _ _
  · rw [← mul_le_mul_iff_left c⁻¹, ← mul_assoc, inv_mul_self, one_mul]
    refine sup_le ?_ ?_
    · simp only [mul_le_mul_iff_left, le_inv_mul_iff_mul_le, le_sup_left]
    · simp only [mul_le_mul_iff_left, le_inv_mul_iff_mul_le, le_sup_right]
  · simp only [mul_le_mul_iff_left, sup_le_iff, le_sup_left, le_sup_right, and_self]
```
but replacing any of the `simp only`s by plain `simp` yields errors like
```lean
application type mismatch
  @Mathlib.Algebra.Order.Group.Defs._auxLemma.5 α AddCommGroup.toAddGroup
argument has type
  AddGroup α
but function has type
  ∀ [inst : Group α] [inst_1 : LE α] [inst_2 : CovariantClass α α (fun x x_1 ↦ x * x_1) fun x x_1 ↦ x ≤ x_1]
    {a b c : α}, (b ≤ a⁻¹ * c) = (a * b ≤ c)
```

cc @fpvandoorn

### PR DESCRIPTION
**Pull request by fpvandoorn**
* The new syntax for any attributes that need to be copied by `to_additive` is `@[to_additive (attrs := simp, ext, simps)]`
* Adds the auxiliary declarations generated by the `simp` and `simps` attributes to the `to_additive`-dictionary.
* Future issue: Does not yet translate auxiliary declarations for other attributes (including custom `simp`-attributes). In particular it's possible that `norm_cast` might generate some auxiliary declarations.
* Fixes #950
* Fixes #953
* Fixes #1149
* This moves the interaction between `to_additive` and `simps` from the `Simps` file to the `toAdditive` file for uniformity.
* Make the same changes to `@[reassoc]`

---

### CODE REVIEW

**Comment by semorrison** [comment]
@fpvandoorn, if you don't mind making the same change to `reassoc`, that sounds good to me.

**Comment by fpvandoorn** [comment]
Ok, I implemented the same changes to `@[reassoc]`.

Note 1: this PR will conflict with any PR that adds a new `@[simp, to_additive]`, so either merge master just before merging and do a search for `, to_additive` and `to_additive,` or delegate it and I will do that

Note 2: there are a bunch of places where there was a `simp` attribute after `reassoc`/`to_additive`. I kept those occurrences unchanged, but added a note. We can fix those in a later PR (they are easy to find by a search).

File: Mathlib/GroupTheory/Submonoid/Basic.lean [hunk 1]
```diff
@@ -167,7 +167,7 @@ initialize_simps_projections Submonoid (toSubsemigroup_carrier → coe)
 
 initialize_simps_projections AddSubmonoid (toAddSubsemigroup_carrier → coe)
 
-@[to_additive, simp]
+@[to_additive, simp] -- do we intentionally not have this simp for the additive declaration?
```
Comment (digama0) [inline Mathlib/GroupTheory/Submonoid/Basic.lean:170]: This question should be answered before merging or marked as a TODO.

File: Mathlib/Algebra/Order/Group/Defs.lean [hunk 2]
```diff
@@ -892,7 +892,7 @@ theorem div_le_inv_mul_iff [CovariantClass α α (swap (· * ·)) (· ≤ ·)] :
 #align div_le_inv_mul_iff div_le_inv_mul_iff
 
 --  What is the point of this lemma?  See comment about `div_le_inv_mul_iff` above.
-@[to_additive, simp]
+@[to_additive, simp] -- do we intentionally not have this simp for the additive declaration?
```
Comment (digama0) [inline Mathlib/Algebra/Order/Group/Defs.lean:895]: unanswered question

File: Mathlib/CategoryTheory/Functor/Basic.lean [hunk 3]
```diff
@@ -58,7 +58,7 @@ end
 infixr:26 " ⥤ " => Functor -- type as \func
 
 attribute [simp] Functor.map_id
-attribute [reassoc, simp] Functor.map_comp
+attribute [reassoc, simp] Functor.map_comp -- is the simp here intentionally not added to reassoc?
```
Comment (digama0) [inline Mathlib/CategoryTheory/Functor/Basic.lean:61]: unanswered question

File: Mathlib/GroupTheory/Subsemigroup/Center.lean [hunk 4]
```diff
@@ -183,7 +183,7 @@ section
 
 variable (M) [CommSemigroup M]
 
-@[to_additive, simp]
+@[to_additive, simp] -- do we intentionally not have this simp for the additive declaration?
```
Comment (digama0) [inline Mathlib/GroupTheory/Subsemigroup/Center.lean:186]: unanswered question

File: Mathlib/Tactic/Simps/Basic.lean [hunk 5]
```diff
@@ -752,9 +754,9 @@ structure Simps.Config where
   notRecursive := [`Prod, `PProd]
   /-- Output debug messages. Not used much, use `set_option simps.debug true` instead. -/
   debug := false
-  /-- [TODO] Add `@[to_additive]` to all generated lemmas. This can be set by marking the
-  declaration with the `@[to_additive]` attribute before the `@[simps]` attribute -/
-  addAdditive := @none Name
+  -- /-- [TODO] Add `@[to_additive]` to all generated lemmas. This can be set by marking the
+  -- declaration with the `@[to_additive]` attribute before the `@[simps]` attribute -/
+  -- addAdditive := @none Name
```
Comment (digama0) [inline Mathlib/Tactic/Simps/Basic.lean:759]:
```suggestion
```

File: Mathlib/Tactic/ToAdditive.lean [hunk 6]
```diff
@@ -540,62 +538,96 @@ def copyInstanceAttribute (src tgt : Name) : CoreM Unit := do
...
-  -- Copy the `norm_cast` attributes
-  copySimpAttribute src tgt pushCastExt
-  copySimpAttribute src tgt normCastExt.up
-  copySimpAttribute src tgt normCastExt.down
-  copySimpAttribute src tgt normCastExt.squash
-  -- copy `instance`
+/-- Warn the user when the multiplicative declaration has an attribute. -/
+def warnExt [Inhabited σ] (ext : PersistentEnvExtension α β σ) (f : σ → Name → Bool)
+  (thisAttr attrName src : Name) : CoreM Unit := do
+  if f (ext.getState (← getEnv)) src then
```
Comment (digama0) [inline Mathlib/Tactic/ToAdditive.lean:544]: This warning should be associated to a lint class and disablable, so that it is still possible to use `@[simp, to_additive]` on purpose.

File: Mathlib/CategoryTheory/Functor/Basic.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/CategoryTheory/Functor/Basic.lean:61]: I've left a comment explaining that this was intentional.

File: Mathlib/GroupTheory/Subsemigroup/Center.lean (hunk 4 above)
Comment (semorrison) [reply Mathlib/GroupTheory/Subsemigroup/Center.lean:186]: Looks like an accident to me, unless @j-loreaux remembers from https://github.com/leanprover-community/mathlib/pull/13627/files. I've changed to `(attr := simp)` for now.

File: Mathlib/GroupTheory/Submonoid/Basic.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/GroupTheory/Submonoid/Basic.lean]: Pretty sure this is an oversight from https://github.com/leanprover-community/mathlib4/pull/1224, unless @ADedecker recalls otherwise? I've fixed for now.

File: Mathlib/Algebra/Order/Group/Defs.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Algebra/Order/Group/Defs.lean:895]: This is just a mistake from #869. Fixed now.

File: Mathlib/Tactic/ToAdditive.lean (hunk 6 above)
Comment (fpvandoorn) [reply Mathlib/Tactic/ToAdditive.lean:544]: What is the best way to do this? Shall I do the following?
* Add an option `linter.toAdditiveWarnings` (where I can also add some other warnings)
* Instead of `logInfo` use "if option is true, then do `logLint ...`"
* never actually run `initialize addLinter ...`

Comment (fpvandoorn) [reply Mathlib/Tactic/ToAdditive.lean:544]: I'm also happy to do this after this gets merged, this is holding up quite a few PRs.

Comment (digama0) [reply Mathlib/Tactic/ToAdditive.lean:529]: yes to the first thing. For the second, why aren't the existing cases of deliberate `attr, to_additive` already making the build noisy?

Comment (fpvandoorn) [reply Mathlib/Tactic/ToAdditive.lean:529]: what cases? 
Also, I think that `logInfo` doesn't show up in CI...

File: Mathlib/Tactic/Reassoc.lean [hunk 7]
```diff
@@ -72,6 +77,8 @@ initialize registerBuiltinAttribute {
     | _ => throwError "Constant {src} is not a theorem or definition."
     if isProtected (← getEnv) src then
       setEnv $ addProtected (← getEnv) tgt
-    ToAdditive.copyAttributes src tgt }
+    let stx := match stx? with | some stx => stx | none => #[]
+    Term.TermElabM.run' <| ToAdditive.applyAttributes stx `reasoc src tgt
```
Comment (digama0) [inline Mathlib/Tactic/Reassoc.lean:81]:
```suggestion
    Term.TermElabM.run' <| ToAdditive.applyAttributes stx `reassoc src tgt
```
Also, I can't remember the details now but I think attributes need to be named the same as their first atom, so `reassoc` instead of `reassocAttr`. (You can put it in an additional namespace to avoid a clash) This is because some of lean's internals use the attribute name and others use the declaration name sans namespaces or atom name.

Comment (fpvandoorn) [reply Mathlib/Tactic/Reassoc.lean:81]: ok, I renamed the other occurrence of `reassoc` to avoid the name clash.

**Comment by digama0** [comment]
bors merge
